US05608056
A solution of (2R,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-(2-hydroxyethyl)pyrrolidine (5.0 g) and conc. hydrochloric acid (2.53 ml) in methanol (25 ml) was stirred under ice-cooling for 10 minutes and then stirred at ambient temperature for 1 hour. To the reaction mixture cooled at 0° C. was added 28% sodium methoxide in methanol solution (5.84 ml). The resulting precipitates were filtered off and the filtrate was evaporated in vacuo to give a residue. The residue was dissolved in dichloromethane (15 ml) and the solution was dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue. The residue was washed with n-hexane and dried in vacuo to give (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-(2-hydroxyethyl)pyrrolidine (3.10 g).

reactant | (2R,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-(2-hydroxyethyl)pyrrolidine | 5.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCO | C16H31NO4Si
reactant | hydrochloric acid | 2.53 ml | Cl | ClH
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 5.84 ml | CO | CH4O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-(2-hydroxyethyl)pyrrolidine | 3.10 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CCO | C10H17NO4
